US07560468B2
Preparation of 8-benzenesulfonyl-1,3-dibenzyl-1,4,8-triazaspiro[4,5]decan-2-one
Triethylamine (0.12 ml, 0.89 mmol) and subsequently benzenesulfonyl chloride (0.19 ml, 0.26 mmol) were added to a solution of 1,3-dibenzyl-1,4,8-triazaspiro-[4,5]decan-2-one (250 mg, 0.75 mmol) in CH2Cl2 (6.7 ml) with stirring under a blanket of nitrogen at RT. The reaction mixture was stirred overnight. The organic phase was rendered alkaline using saturated aqueous sodium carbonate solution (20 ml), and the aqueous phase was extracted with CH2Cl2 (15 ml). The combined organic phases were dried over Na2SO4. After filtration, removal of the solvent, and column chromatography, the desired product 8-benzenesulfonyl-1,3-dibenzyl-1,4,8-triazaspiro[4,5]decan-2-one was obtained in a yield of 259 mg (73% of theory).

reactant | Triethylamine | 0.89 mmol, 0.12 ml | C(C)N(CC)CC | C6H15N
reactant | benzenesulfonyl chloride | 0.26 mmol, 0.19 ml | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | 1,3-dibenzyl-1,4,8-triazaspiro-[4,5]decan-2-one | 0.75 mmol, 250 mg | C(C1=CC=CC=C1)N1C(C(NC12CCNCC2)CC2=CC=CC=C2)=O | C21H25N3O
reactant | sodium carbonate | 20 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | CH2Cl2 | 6.7 ml | C(Cl)Cl | CH2Cl2
product | 8-benzenesulfonyl-1,3-dibenzyl-1,4,8-triazaspiro[4,5]decan-2-one | C1(=CC=CC=C1)S(=O)(=O)N1CCC2(NC(C(N2CC2=CC=CC=C2)=O)CC2=CC=CC=C2)CC1 | C27H29N3O3S
